US07902237B2
Preparation of 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-thiazolidin-4-one
A mixture of 3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-2-thioxothiazolidin-4-one (60 mg, 0.14 mmol) and methyl p-toluenesulfonate (54 mg, 0.29 mmol) in DMF (1.0 mL, anhyd) was heated at 130° C. After 2 h the reaction mixture was allowed to cool to ambient temperature, charged with 3′-amino-4′-ethylamino-acetophenone (50 mg, 0.28 mmol) and TEA (70 μL, 0.72 mmol), and then heated at 65° C. After 20 h the reaction mixture was cooled and chromatographed (HPLC-MS conditions) to yield the title product (7 mg) as a yellow solid. 1H-NMR (CDCl3): δ 7.82 (1H, s), 7.61 (1H, dd), 7.48 (1H, d), 7.27-7.40 (5H, m), 7.08 (2H, m), 6.90 (2H, m), 6.44 (1H, d), 5.09 (2H, s), 4.20 (1H, br s), 4.07 (2H, m), 3.73 (2H, m), 3.46 (3H, s), 3.44 (3H, s), 3.00 (2H, m), 2.43 (3H, s), 1.00 (3H, t); MS (ESI): 559 (MH+).

reactant | 3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-2-thioxothiazolidin-4-one | 0.14 mmol, 60 mg | C(C1=CC=CC=C1)N1C(SC(C1=O)=CN(C1=CC=C(C=C1)OCCOC)C)=S | C21H22N2O3S2
reactant | methyl p-toluenesulfonate | 0.29 mmol, 54 mg | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 3′-amino-4′-ethylamino-acetophenone | 0.28 mmol, 50 mg | NC=1C=C(C=CC1NCC)C(C)=O | C10H14N2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-5-({N-[4-(2-methoxy-ethoxy)-phenyl]-methylamino}-methylene)-thiazolidin-4-one | 7 mg | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=CN(C1=CC=C(C=C1)OCCOC)C)NCC | C31H34N4O4S
